US05876945
The Z-Leu-Asp(OtBu)-Leu-Ala-CH2Cl (0.653 g) in methylene chloride (5 mL) was stirred with trifluoroacetic acid (5 mL) at room temp for 2 h. After removal of the volatile species, the residue was triturated with diethyl ether to yield Z-Leu-Asp-Leu-Ala-CH2Cl as white powder (0.47 g).

reactant | Z-Leu-Asp(OtBu)-Leu-Ala-CH2Cl | 0.653 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C32H49ClN4O8
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Z-Leu-Asp-Leu-Ala-CH2Cl | 0.47 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C28H41ClN4O8
